US04028344
B. 1-t-Butylazo-1-isocyanatocyclohexane
To a stirred solution of 48.7 grams (0.6 moles) of potassium cyanate in 250 ml of 75% aqueous isopropanol in a 2 liter jacketed reactor, cooled to 5° C., was added 371 grams (0.5 moles) of a 27.4% pentane solution of 1-t-butylazo-1-chlorocyclohexane holding the reaction temperature at 10°-20° C. After the addition was complete, the reaction mixture was stirred an additional 90 minutes at room temperature, 300 ml of water added and the reaction stirred until the sodium chloride dissolved. The product was extracted with 300 ml pentane, the pentane extract washed successively with water, 10% NaHCO3 solution, water, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure to leave 100 grams (94.6% crude yield) of a yellow liquid. The product has a sharp band at approximately 2225 cm-1 which is indicative of the isocyanato band in these compounds.

reactant | potassium cyanate | 0.6 moles, 48.7 grams | [O-]C#N.[K+]
reactant | pentane | CCCCC | C5H12
reactant | 1-t-butylazo-1-chlorocyclohexane | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
reactant | sodium chloride | [Cl-].[Na+]
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
solvent | water | 300 ml | O | H2O
product | 1-t-Butylazo-1-isocyanatocyclohexane | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
